US08470803B2
To a solution of 4-bromo-3-methylaniline (5 g, 26.88 mmol) in N,N-dimethylformamide (50 mL) were added di-tert-butyl dicarbonate (11.73 g, 53.75 mmol) and triethylamine (7.5 mL, 53.75 mmol). The reaction was stirred at room temperature for three days. Water (100 mL) was added and product precipitated out of solution, which was filtered and dried under reduced pressure. Precipitates were washed by adding hexanes and sonicated for 5 minutes. The solid was filtered to give tert-butyl 4-bromo-3-methylphenylcarbamate (3.863 g, 50%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.42 (s, 9H), 2.23 (s, 3H), 7.16 (dd, J=2.4, 8.6 Hz, 1H), 7.38 (d, J=8.6 Hz, 1H), 7.43 (s, 1H), 9.41 (s, 1H).

reactant | 4-bromo-3-methylaniline | 26.88 mmol, 5 g | BrC1=C(C=C(N)C=C1)C | C7H8BrN
reactant | di-tert-butyl dicarbonate | 53.75 mmol, 11.73 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 53.75 mmol, 7.5 mL | C(C)N(CC)CC | C6H15N
reactant | Water | 100 mL | O | H2O
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | tert-butyl 4-bromo-3-methylphenylcarbamate | 3.863 g, 50% | BrC1=C(C=C(C=C1)NC(OC(C)(C)C)=O)C | C12H16BrNO2
